US08497255B2
(4-(5-(4-isopropoxy-3-(trifluoromethyl)phenyl)-1,2,4-oxadiazol-3-yl)phenyl)methanol
To a solution of 4-isopropoxy-3-(trifluoromethyl)benzoic acid (CAS 213598-16-4)(1.04 g, 4.19 mmol) in THF (20 mL) was added CU (748 mg, 4.61 mmol). After stirring at rt for 2 h, N′-hydroxy-4-(hydroxymethyl)benzenecarboximidamide (CAS 1233243-49-6) (766 mg, 4.61 mmol) was added to the mixture and resulting solution was stirred at 50° C. for 3 h. The reaction mixture was submitted to the microwave at 150° C. for 20 min. The reaction mixture was quenched with water, extracted with EtOAc and washed with K2CO3, brine, dried over magnesium sulfate and concentrated. The crude material was purified by MPLC (1:1 ethyl acetate in hexanes) to give rise to 874 mg of the title compound as a colorless solid.

reactant | 4-isopropoxy-3-(trifluoromethyl)benzoic acid | 4.19 mmol, 1.04 g | C(C)(C)OC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C11H11F3O3
reactant | N′-hydroxy-4-(hydroxymethyl)benzenecarboximidamide | 4.61 mmol, 766 mg | ON=C(N)C1=CC=C(C=C1)CO | C8H10N2O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (4-(5-(4-isopropoxy-3-(trifluoromethyl)phenyl)-1,2,4-oxadiazol-3-yl)phenyl)methanol | 874 mg | C(C)(C)OC1=C(C=C(C=C1)C1=NC(=NO1)C1=CC=C(C=C1)CO)C(F)(F)F | C19H17F3N2O3
